US07763639B2
2-FLUORO-3-[1-(2-METHOXYETHYL)PIPERIDIN-4-YL]PHENYL METHANESULFONATE
Preparation according to Example 1: 2-fluoro-3-piperidin-4-ylphenyl methanesulfonate (0.01 g), acetonitrile (2 ml), potassium carbonate (0.01 g) and 1-bromo-2-methoxyethane (0.01 g). MS m/z (rel. intensity, 70 eV) 331 (M+, 1), 288 (6), 287 (15), 286 (bp), 207 (47).

reactant | 2-fluoro-3-piperidin-4-ylphenyl methanesulfonate | 0.01 g | CS(=O)(=O)OC1=C(C(=CC=C1)C1CCNCC1)F | C12H16FNO3S
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methoxyethane | 0.01 g | BrCCOC | C3H7BrO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-FLUORO-3-[1-(2-METHOXYETHYL)PIPERIDIN-4-YL]PHENYL METHANESULFONATE | CS(=O)(=O)OC1=C(C(=CC=C1)C1CCN(CC1)CCOC)F | C15H22FNO4S
